US09334269B2
To a solution of 2-chloro-4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)-6-methyl-1,3,5-triazine (1.0 g, 3.04 mmol) in Isopropanol (10 mL) was added DIPEA (0.8 mL) and 3-amino-N-methylbenzamide (0.460 g, 3.04 mmol) and the reaction mixture was stirred at 80° C. for 24 h. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×40 mL) and water (2×40 mL). The organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 3-((4-(3-(4-chloro-2-fluorophenoxy) azetidin-1-yl)-6-methyl-1,3,5-triazin-2-yl)amino)-N-methylbenzamide (0.057 g, 6%) as a solid. Observed mass (M+1): 443.1.

reactant | 2-chloro-4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)-6-methyl-1,3,5-triazine | 3.04 mmol, 1.0 g | ClC1=NC(=NC(=N1)N1CC(C1)OC1=C(C=C(C=C1)Cl)F)C | C13H11Cl2FN4O
reactant | DIPEA | 0.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-amino-N-methylbenzamide | 3.04 mmol, 0.460 g | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
solvent | Isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 3-((4-(3-(4-chloro-2-fluorophenoxy) azetidin-1-yl)-6-methyl-1,3,5-triazin-2-yl)amino)-N-methylbenzamide | 0.057 g, 6% | ClC1=CC(=C(OC2CN(C2)C2=NC(=NC(=N2)C)NC=2C=C(C(=O)NC)C=CC2)C=C1)F | C21H20ClFN6O2
